### PR TITLE
[Merged by Bors] - chore(CategoryTheory): golf entire `preinclusion_map₂`, `mapForget_eq`, `uSwitch_map_uSwitch_map` and more using `rfl`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>preinclusion_map₂</code>: 166 ms before, 33 ms after  🎉</summary>

### Trace profiling of `preinclusion_map₂` before PR 28559
```diff
diff --git a/Mathlib/CategoryTheory/Bicategory/Coherence.lean b/Mathlib/CategoryTheory/Bicategory/Coherence.lean
index e5ce271970..61a115654e 100644
--- a/Mathlib/CategoryTheory/Bicategory/Coherence.lean
+++ b/Mathlib/CategoryTheory/Bicategory/Coherence.lean
@@ -84,6 +84,7 @@ def preinclusion (B : Type u) [Quiver.{v + 1} B] :
 theorem preinclusion_obj (a : B) : (preinclusion B).obj ⟨a⟩ = a :=
   rfl
 
+set_option trace.profiler true in
 @[simp]
 theorem preinclusion_map₂ {a b : B} (f g : Discrete (Path.{v + 1} a b)) (η : f ⟶ g) :
     (preinclusion B).map₂ η = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom η))) := by
```
```
ℹ [503/503] Built Mathlib.CategoryTheory.Bicategory.Coherence (3.8s)
info: Mathlib/CategoryTheory/Bicategory/Coherence.lean:88:0: [Elab.command] [0.017892] @[simp]
    theorem preinclusion_map₂ {a b : B} (f g : Discrete (Path.{v + 1} a b)) (η : f ⟶ g) :
        (preinclusion B).map₂ η = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom η))) :=
      by
      rcases η with ⟨⟨⟩⟩
      cases Discrete.ext (by assumption)
      convert (inclusionPath a b).map_id _
  [Elab.definition.header] [0.012532] CategoryTheory.FreeBicategory.preinclusion_map₂
    [Elab.step] [0.010910] expected type: Prop, term
        (preinclusion B).map₂ η = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom η)))
      [Elab.step] [0.010898] expected type: Prop, term
          binrel% Eq✝ ((preinclusion B).map₂ η) (eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom η))))
info: Mathlib/CategoryTheory/Bicategory/Coherence.lean:88:0: [Elab.async] [0.170229] elaborating proof of CategoryTheory.FreeBicategory.preinclusion_map₂
  [Elab.definition.value] [0.165791] CategoryTheory.FreeBicategory.preinclusion_map₂
    [Elab.step] [0.160852] 
          rcases η with ⟨⟨⟩⟩
          cases Discrete.ext (by assumption)
          convert (inclusionPath a b).map_id _
      [Elab.step] [0.160840] 
            rcases η with ⟨⟨⟩⟩
            cases Discrete.ext (by assumption)
            convert (inclusionPath a b).map_id _
        [Elab.step] [0.153245] convert (inclusionPath a b).map_id _
info: Mathlib/CategoryTheory/Bicategory/Coherence.lean:89:8: [Elab.async] [0.012802] Lean.addDecl
  [Kernel] [0.012744] ✅️ typechecking declarations [CategoryTheory.FreeBicategory.preinclusion_map₂]
Build completed successfully (503 jobs).
```

### Trace profiling of `preinclusion_map₂` after PR 28559
```diff
diff --git a/Mathlib/CategoryTheory/Bicategory/Coherence.lean b/Mathlib/CategoryTheory/Bicategory/Coherence.lean
index e5ce271970..29da16cbb6 100644
--- a/Mathlib/CategoryTheory/Bicategory/Coherence.lean
+++ b/Mathlib/CategoryTheory/Bicategory/Coherence.lean
@@ -84,12 +84,11 @@ def preinclusion (B : Type u) [Quiver.{v + 1} B] :
 theorem preinclusion_obj (a : B) : (preinclusion B).obj ⟨a⟩ = a :=
   rfl
 
+set_option trace.profiler true in
 @[simp]
 theorem preinclusion_map₂ {a b : B} (f g : Discrete (Path.{v + 1} a b)) (η : f ⟶ g) :
     (preinclusion B).map₂ η = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom η))) := by
-  rcases η with ⟨⟨⟩⟩
-  cases Discrete.ext (by assumption)
-  convert (inclusionPath a b).map_id _
+  tauto
 
 /-- The normalization of the composition of `p : Path a b` and `f : Hom b c`.
 `p` will eventually be taken to be `nil` and we then get the normalization
diff --git a/Mathlib/CategoryTheory/Comma/Over/Basic.lean b/Mathlib/CategoryTheory/Comma/Over/Basic.lean
index 1372cd7356..623f4dc454 100644
--- a/Mathlib/CategoryTheory/Comma/Over/Basic.lean
+++ b/Mathlib/CategoryTheory/Comma/Over/Basic.lean
@@ -216,9 +216,7 @@ def mapId (Y : T) : map (𝟙 Y) ≅ 𝟭 _ := eqToIso (mapId_eq Y)
 /-- Mapping by `f` and then forgetting is the same as forgetting. -/
 theorem mapForget_eq {X Y : T} (f : X ⟶ Y) :
     (map f) ⋙ (forget Y) = (forget X) := by
-  fapply Functor.ext
-  · dsimp [Over, Over.map]; intro x; exact rfl
-  · intros x y u; simp
+  tauto
 
 /-- The natural isomorphism arising from `mapForget_eq`. -/
 def mapForget {X Y : T} (f : X ⟶ Y) :
@@ -626,9 +624,7 @@ def mapId (Y : T) : map (𝟙 Y) ≅ 𝟭 _ := eqToIso (mapId_eq Y)
 /-- Mapping by `f` and then forgetting is the same as forgetting. -/
 theorem mapForget_eq {X Y : T} (f : X ⟶ Y) :
     (map f) ⋙ (forget X) = (forget Y) := by
-  fapply Functor.ext
-  · dsimp [Under, Under.map]; intro x; exact rfl
-  · intros x y u; simp
+  tauto
 
 /-- The natural isomorphism arising from `mapForget_eq`. -/
 def mapForget {X Y : T} (f : X ⟶ Y) :
diff --git a/Mathlib/CategoryTheory/FintypeCat.lean b/Mathlib/CategoryTheory/FintypeCat.lean
index ba51103beb..947f2743b8 100644
--- a/Mathlib/CategoryTheory/FintypeCat.lean
+++ b/Mathlib/CategoryTheory/FintypeCat.lean
@@ -237,10 +237,7 @@ lemma uSwitch_map_uSwitch_map {X Y : FintypeCat.{u}} (f : X ⟶ Y) :
     (equivEquivIso ((uSwitch.obj X).uSwitchEquiv.trans X.uSwitchEquiv)).hom ≫
       f ≫ (equivEquivIso ((uSwitch.obj Y).uSwitchEquiv.trans
       Y.uSwitchEquiv)).inv := by
-  ext x
-  simp only [comp_apply, equivEquivIso_apply_hom, Equiv.trans_apply]
-  rw [uSwitchEquiv_naturality f, ← uSwitchEquiv_naturality]
-  rfl
+  tauto
 
 /-- `uSwitch.{u, v}` is an equivalence of categories with quasi-inverse `uSwitch.{v, u}`. -/
 noncomputable def uSwitchEquivalence : FintypeCat.{u} ≌ FintypeCat.{v} where
diff --git a/Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean b/Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean
index d71f89c163..8739b63337 100644
--- a/Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean
+++ b/Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean
@@ -83,9 +83,7 @@ theorem inclusion_obj (X : N C) :
 @[simp]
 theorem inclusion_map {X Y : N C} (f : X ⟶ Y) :
     inclusion.map f = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom f))) := by
-  rcases f with ⟨⟨⟩⟩
-  cases Discrete.ext (by assumption)
-  apply inclusion.map_id
+  tauto
 
 /-- Auxiliary definition for `normalize`. -/
 def normalizeObj : F C → NormalMonoidalObject C → NormalMonoidalObject C
diff --git a/Mathlib/CategoryTheory/MorphismProperty/Basic.lean b/Mathlib/CategoryTheory/MorphismProperty/Basic.lean
index e49349dfd8..59072358d3 100644
--- a/Mathlib/CategoryTheory/MorphismProperty/Basic.lean
+++ b/Mathlib/CategoryTheory/MorphismProperty/Basic.lean
@@ -344,12 +344,7 @@ lemma map_isoClosure (P : MorphismProperty C) (F : C ⥤ D) :
 
 lemma map_id_eq_isoClosure (P : MorphismProperty C) :
     P.map (𝟭 _) = P.isoClosure := by
-  apply le_antisymm
-  · rw [map_le_iff]
-    intro X Y f hf
-    exact P.le_isoClosure _ hf
-  · intro X Y f hf
-    exact hf
+  tauto
 
 lemma map_id (P : MorphismProperty C) [RespectsIso P] :
     P.map (𝟭 _) = P := by
diff --git a/Mathlib/CategoryTheory/Pi/Basic.lean b/Mathlib/CategoryTheory/Pi/Basic.lean
index e721041ea4..41af15d2d0 100644
--- a/Mathlib/CategoryTheory/Pi/Basic.lean
+++ b/Mathlib/CategoryTheory/Pi/Basic.lean
@@ -208,11 +208,7 @@ end EqToHom
 -- how `Functor.pi` commutes with `Pi.eval` and `Pi.comap`.
 @[simp]
 theorem pi'_eval (f : ∀ i, A ⥤ C i) (i : I) : pi' f ⋙ Pi.eval C i = f i := by
-  apply Functor.ext
-  · intro _ _ _
-    simp
-  · intro _
-    rfl
+  tauto
 
 /-- Two functors to a product category are equal iff they agree on every coordinate. -/
 theorem pi_ext (f f' : A ⥤ ∀ i, C i) (h : ∀ i, f ⋙ (Pi.eval C i) = f' ⋙ (Pi.eval C i)) :
diff --git a/Mathlib/CategoryTheory/Quotient.lean b/Mathlib/CategoryTheory/Quotient.lean
index c66247076c..b73eaf476d 100644
--- a/Mathlib/CategoryTheory/Quotient.lean
+++ b/Mathlib/CategoryTheory/Quotient.lean
@@ -237,9 +237,7 @@ theorem lift_obj_functor_obj (X : C) :
 
 theorem lift_map_functor_map {X Y : C} (f : X ⟶ Y) :
     (lift r F H).map ((functor r).map f) = F.map f := by
-  rw [← NatIso.naturality_1 (lift.isLift r F H)]
-  dsimp [lift, functor]
-  simp
+  tauto
 
 variable {r}
 
```
```
✔ [489/503] Built Mathlib.CategoryTheory.Quotient (2.2s)
✔ [490/503] Built Mathlib.CategoryTheory.PathCategory.Basic (1.9s)
✔ [491/503] Built Mathlib.CategoryTheory.Pi.Basic (4.5s)
✔ [492/503] Built Mathlib.CategoryTheory.Groupoid (1.8s)
✔ [493/503] Built Mathlib.CategoryTheory.Discrete.Basic (2.9s)
✔ [494/503] Built Mathlib.CategoryTheory.EpiMono (1.9s)
✔ [495/503] Built Mathlib.CategoryTheory.Bicategory.LocallyDiscrete (2.2s)
✔ [496/503] Built Mathlib.CategoryTheory.Types (1.9s)
✔ [497/503] Built Mathlib.CategoryTheory.Category.Cat (2.0s)
✔ [498/503] Built Mathlib.Tactic.CategoryTheory.ToApp (1.8s)
✔ [499/503] Built Mathlib.CategoryTheory.Bicategory.Functor.Oplax (2.0s)
✔ [500/503] Built Mathlib.CategoryTheory.Bicategory.Functor.Lax (3.2s)
✔ [501/503] Built Mathlib.CategoryTheory.Bicategory.Functor.Pseudofunctor (4.5s)
✔ [502/503] Built Mathlib.CategoryTheory.Bicategory.Free (5.3s)
ℹ [503/503] Built Mathlib.CategoryTheory.Bicategory.Coherence (3.9s)
info: Mathlib/CategoryTheory/Bicategory/Coherence.lean:88:0: [Elab.command] [0.020377] @[simp]
    theorem preinclusion_map₂ {a b : B} (f g : Discrete (Path.{v + 1} a b)) (η : f ⟶ g) :
        (preinclusion B).map₂ η = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom η))) := by tauto
  [Elab.definition.header] [0.011267] CategoryTheory.FreeBicategory.preinclusion_map₂
info: Mathlib/CategoryTheory/Bicategory/Coherence.lean:88:0: [Elab.async] [0.033437] elaborating proof of CategoryTheory.FreeBicategory.preinclusion_map₂
  [Elab.definition.value] [0.032541] CategoryTheory.FreeBicategory.preinclusion_map₂
    [Elab.step] [0.032026] tauto
      [Elab.step] [0.032010] tauto
        [Elab.step] [0.031994] tauto
          [Elab.step] [0.020006] rfl
            [Elab.step] [0.019397] eq_refl
              [Meta.isDefEq] [0.019374] ✅️ (preinclusion B).map₂ η =?= eqToHom ⋯
                [Meta.isDefEq] [0.019302] ✅️ (preinclusion B).map₂ η =?= ⋯.mpr (𝟙 ((preinclusion B).map g))
                  [Meta.isDefEq] [0.019274] ✅️ (preinclusion B).map₂ η =?= ⋯ ▸ 𝟙 ((preinclusion B).map g)
                    [Meta.isDefEq] [0.016614] ✅️ (preinclusion B).toPrelaxFunctorStruct.2
                          η =?= ⋯ ▸ 𝟙 ((preinclusion B).map g)
                      [Meta.isDefEq] [0.014779] ✅️ (inclusionPath { as := a }.as { as := b }.as).map
                            η =?= ⋯ ▸ 𝟙 ((preinclusion B).map g)
                        [Meta.isDefEq] [0.013158] ✅️ (inclusionPath { as := a }.as { as := b }.as).2
                              η =?= ⋯ ▸ 𝟙 ((preinclusion B).map g)
                          [Meta.isDefEq] [0.011394] ✅️ id
                                (ULift.casesOn η fun down ↦
                                  PLift.casesOn down fun h ↦ eqToHom ⋯) =?= ⋯ ▸ 𝟙 ((preinclusion B).map g)
Build completed successfully (503 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ghost** [comment]
!bench

**Comment by robin-carlier** [comment]
Can you please remove the `by`s left on the lines above the `rfl`s?
e.g 
```lean
@[simp]
theorem preinclusion_map₂ {a b : B} (f g : Discrete (Path.{v + 1} a b)) (η : f ⟶ g) :
    (preinclusion B).map₂ η = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom η))) :=
  rfl
```

instead of
```lean
@[simp]
theorem preinclusion_map₂ {a b : B} (f g : Discrete (Path.{v + 1} a b)) (η : f ⟶ g) :
    (preinclusion B).map₂ η = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom η))) := by
  rfl
```

Whenever you golf something using `rfl`, you should make sure it does not become a `by rfl`: lean has a `@[defeq]` attribute that gets automatically applied whenever the proof is `:= rfl`, but not when the proof is `:= by rfl`. See the discussion [here](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.E2.9C.94.20.60simp.60.20lemma.20fails.20to.20trigger.20on.204.2E22.2E0-rc2).

**Comment by euprunin** [comment]
@robin-carlier Oh, thanks! I thought I had already fixed all instances of `:= by rfl` where `:= rfl` would suffice. I’ve now corrected all of them in this PR. The only exception is `theorem inclusion_map` in `Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean`, where `by rfl` seems to be required.

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

File: Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean [hunk 1]
```diff
@@ -82,9 +82,7 @@ theorem inclusion_obj (X : N C) :
 @[simp]
 theorem inclusion_map {X Y : N C} (f : X ⟶ Y) :
     inclusion.map f = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom f))) := by
-  rcases f with ⟨⟨⟩⟩
-  cases Discrete.ext (by assumption)
-  apply inclusion.map_id
+  rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean]: This should be `rfl`, not `by rfl`.

Comment (euprunin) [reply Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean]: I tried that, but:

```diff
% git diff
diff --git a/Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean b/Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean
index 1890d7e473..583d81cb52 100644
--- a/Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean
+++ b/Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean
@@ -81,7 +81,7 @@ theorem inclusion_obj (X : N C) :

 @[simp]
 theorem inclusion_map {X Y : N C} (f : X ⟶ Y) :
-    inclusion.map f = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom f))) := by
+    inclusion.map f = eqToHom (congr_arg _ (Discrete.ext (Discrete.eq_of_hom f))) :=
   rfl

 /-- Auxiliary definition for `normalize`. -/
% lake build Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean
error: Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean:276:4: No goals to be solved
error: Lean exited with code 1
Some required targets logged failures:
- Mathlib.CategoryTheory.Monoidal.Free.Coherence
error: build failed
```

Comment (bryangingechen) [reply Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean]: If you also remove the `rfl` on line 276, that should fix the error.

Comment (bryangingechen) [reply Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean]: bors d+

Comment (euprunin) [reply Mathlib/CategoryTheory/Monoidal/Free/Coherence.lean]: @bryangingechen Thanks! Now fixed.
